US06172081B2
C. 3,4-dihydro-6,7-dimethoxy-2,3(1H)-Isoquinolinedicarboxylic acid 2-(1,1-dimethylethyl) ester
Water (64 mg, 0.07 mL. 3.56 mmol) was added to a slurry of potassium t-butoxide (1.44 g, 12.8 mmol) in diethyl ether (25 mL) at 0° C. with stirring. After 5 minutes, the title B compound, 3,4-dihydro-6,7-dimethoxy-2,3(1H)-isoquinolinedicarboxylic acid 2-(1,1-dimethylethyl) 3-methyl ester (570 mg, 1.62 mmol) was added as a solution in 8 mL of ether. Stirring was continued for 45 minutes with warming to 8° C. after which the cooling bath was removed and stirring was continued at room temperature for 45 minutes. The reaction was quenched with 10 mL of saturated aqueous ammonium chloride, diluted with water, and extracted with ether. The aqueous solution was then acidified to pH 5 with 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solution was dried (sodium sulfate) and concentrated to give 554 mg of the title compound as a viscous yellow oil.

reactant | Water | 3.56 mmol, 0.07 mL, 64 mg | O | H2O
reactant | potassium t-butoxide | 12.8 mmol, 1.44 g | CC(C)([O-])C.[K+]
reactant | 3,4-dihydro-6,7-dimethoxy-2,3(1H)-isoquinolinedicarboxylic acid 2-(1,1-dimethylethyl) 3-methyl ester | 1.62 mmol, 570 mg | COC(=O)C1N(CC2=CC(=C(C=C2C1)OC)OC)C(=O)OC(C)(C)C | C18H25NO6
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | ether | 8 mL | CCOCC | C4H10O
product | 3,4-dihydro-6,7-dimethoxy-2,3(1H)-Isoquinolinedicarboxylic acid 2-(1,1-dimethylethyl) ester | 554 mg | CC(C)(C)OC(=O)N1CC2=CC(=C(C=C2CC1C(=O)O)OC)OC | C17H23NO6
